US07528143B2
tert-Butyl 4-(4-(4-amino-5-methylpyrimidin-2-ylamino)phenoxy)piperidine-1-carboxylate (Intermediate 42)
A mixture of 2-chloro-5-methylpyrimidin-4-amine (540 mg, 3.7 mmol), tert-butyl 4-(4-aminophenoxy)piperidine-1-carboxylate (1.1 g, 3.7 mmol) was suspended in acetic acid (20 mL) and heated at 70° C. for 1 h. The mixture was allowed to cool to room temperature and acetic acid removed under reduced pressure. The residue was taken in water (20 mL) and neutralized to pH˜7. The resulting solution was extracted with EtOAc (30 mL) and the organic layer separated. The organic layer washed with brine, dried over MgSO4 and filtered. The filtrate was concentrated in vacuo to afford the title compound (1.4 g, 95%) as a yellow solid.

reactant | 2-chloro-5-methylpyrimidin-4-amine | 3.7 mmol, 540 mg | ClC1=NC=C(C(=N1)N)C | C5H6ClN3
reactant | tert-butyl 4-(4-aminophenoxy)piperidine-1-carboxylate | 3.7 mmol, 1.1 g | NC1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H24N2O3
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | tert-Butyl 4-(4-(4-amino-5-methylpyrimidin-2-ylamino)phenoxy)piperidine-1-carboxylate | 1.4 g, 95% | NC1=NC(=NC=C1C)NC1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C21H29N5O3
